US06333323B1
According to the literature described in Reference example 6 (1), 1-benzenesulfonyl-5-chloroindole was reacted with 3,5-dichlorophenyl disulfide to give 1-benzenesulfonyl-5-chloro-2-(3,5-dichlorophenylthio)-indole. Yield: 71%. m.p.: 121-122° C.

reactant | 1-benzenesulfonyl-5-chloroindole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)Cl | C14H10ClNO2S
reactant | 3,5-dichlorophenyl disulfide | ClC=1C=C(C=C(C1)Cl)SSC1=CC(=CC(=C1)Cl)Cl | C12H6Cl4S2
product | 1-benzenesulfonyl-5-chloro-2-(3,5-dichlorophenylthio)-indole | Yield: 71% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)Cl)SC1=CC(=CC(=C1)Cl)Cl | C20H12Cl3NO2S2
